US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (232 mg, 1 mmol) and 5-fluoro-3-(2-pyridin-3-yl-ethyl)-indol-1-ylamine (255 mmol) in DMF (10 mL) is stirred at 50° C. for 10 min. The mixture is treated with DMTMM (276 mg, 1 mmol) and stirred at 50° C. for 0.5 h. The mixture is diluted with saturated aqueous Na2CO3 (50 mL), and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by triturating in MeOH:H2O (2:1) to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(2-pyridin-3-yl-ethyl)-indol-1-yl]-amide (6 mg, 1%). MS: 470 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.21 (s, 1H), 8.51 (m, 1H), 8.40 (m, 1H), 8.33 (d, 1H), 8.19 (d, 1H), 7.74 (d, 1H), 7.63 (m, 1H), 7.45 (m, 4H), 7.33 (m, 1H), 7.06 (m, 1H), 3.29 (s, 2H), 3.01 (s, 2H), 2.77 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1 mmol, 232 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | 5-fluoro-3-(2-pyridin-3-yl-ethyl)-indol-1-ylamine | 255 mmol | FC=1C=C2C(=CN(C2=CC1)N)CCC=1C=NC=CC1 | C15H14FN3
reactant | DMTMM | 1 mmol, 276 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(2-pyridin-3-yl-ethyl)-indol-1-yl]-amide | 6 mg, 1% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)CCC=1C=NC=CC1 | C27H21F2N5O
